US07786165B2
(4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}phenyl)methanol
A mixture of 4-phenyl-1,3-thiazole-2-carbaldehyde (1.10 g, 5.81 mmol), (4-aminophenyl)methanol (615 mg, 5.0 mmol), acetic acid (0.4 mL) and 1,2-dichloroethane (10 mL) was stirred at room temperature for 30 min. The reaction mixture was diluted with hexane. The precipitated solid was collected by filtration, washed with hexane, and dried to give the title compound (1.30 g, yield 88%) as yellow crystals.

reactant | 4-phenyl-1,3-thiazole-2-carbaldehyde | 5.81 mmol, 1.10 g | C1(=CC=CC=C1)C=1N=C(SC1)C=O | C10H7NOS
reactant | (4-aminophenyl)methanol | 5.0 mmol, 615 mg | NC1=CC=C(C=C1)CO | C7H9NO
reactant | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | hexane | CCCCCC | C6H14
product | (4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}phenyl)methanol | 1.30 g, yield 88% | C1(=CC=CC=C1)C=1N=C(SC1)\C=N\C1=CC=C(C=C1)CO | C17H14N2OS
